US07705007B2
To a solution of 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-pyridin-3-yl)-4,5-dihydro-1H-imidazole (475 mg, 1.152 mmol) and triethylamine (321 uL, 2.304 mmol) in methylene chloride (6 mL) cooled to 0° C. was added phosgene (895 uL, 1.728 mmol, 20% solution in toluene, Fluka). The reaction mixture was stirred at 0° C. for 30 min then concentrated to dryness. The residue was taken in ethyl acetate, and the solids were filtered off. The filtrate was concentrated to give crude 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-pyridin-3-yl)-4,5-dihydro-imidazole-1-carbonyl chloride as yellow solids (450 mg).

reactant | 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-pyridin-3-yl)-4,5-dihydro-1H-imidazole | 1.152 mmol, 475 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C=1C(=NC=CC1)OCC | C22H19Cl2N3O
reactant | triethylamine | 2.304 mmol, 321 uL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 1.728 mmol, 895 uL | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-pyridin-3-yl)-4,5-dihydro-imidazole-1-carbonyl chloride | 450 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C=1C(=NC=CC1)OCC | C23H18Cl3N3O2
